US06329547B1
To a solution of 4-acetylbenzoic acid (3.9 g) in anhydrous methylene chloride (120 ml) are added 4-dimethylaminopyridine (1.5 g), t-butyl alcohol (4.6 ml), N-methylmorpholine (3.4 ml) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (6.0 g) under ice cooling. The mixture is stirred under ice cooling for six hours and under water cooling overnight. The reaction mixture is concentrated under reduced pressure, water is added to the concentrate, and the whole is extracted with ether. The organic layer is washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is purified by silica gel column chromatography to give 3.13 g (59%) of t-butyl 4-acetylbenzoate as crystals.

reactant | 4-acetylbenzoic acid | 3.9 g | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
reactant | t-butyl alcohol | 4.6 ml | C(C)(C)(C)O | C4H10O
reactant | N-methylmorpholine | 3.4 ml | CN1CCOCC1 | C5H11NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 6.0 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.5 g | CN(C1=CC=NC=C1)C | C7H10N2
product | t-butyl 4-acetylbenzoate | 3.13 g, 59% | C(C)(=O)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C13H16O3
